* C:\sandbox\PyLTSpice_GitHub_nunobrum\tests\SalenKey.asc
V1 VCC 0 3.3
V2 0 VEE 0
R1 N004 N003 10k
R2 N003 VI 100k
R3 salen VO 47k
V3 freq 0 PWL(0 1k 2m 1k 30m 10k)
C1 N004 0 1µF
C3 VO N003 120n
C4 salen 0 22n
V4 VI 0 1.5 AC 1 0
XU1 N004 VO VCC VEE VO OPA2333P_MC_XU1
R4 N002 N001 100k
R5 N001 VI2 100k
R6 salen2 VO2 47k
C2 N002 0 22n
C5 VO2 N001 100n
C6 salen2 0 10n
V5 VI2 0 1.5 AC 1 0
XU2 N002 VO2 VCC VEE VO2 324

************************************
* Operational Amplifier Subcircuit *
************************************

.subckt OPA2333P_MC IN+ IN- VCC VEE OUT
+params:
+ inputIbias = normal_zero(200p)
+ inputVoff  = normal_zero(10u)
+ inputIdiff = normal_zero(400p)
.PARAM runIO = inputIbias
.PARAM runID = (inputIdiff/2)
V1 IN-    N001  {inputVoff}
I1 N001   VEE   {runIO-runID}
I2 IN+    VEE   {runIO+runID}
XDUT IN+ N001 VCC VEE OUT OPA2333P
.lib OPA2333P.LIB
.ends OPA2333P_MC
.ac dec 1000 0.1 100k

.param run=-1
* .step param run -1 1000 1
.param test_exiting_param_set1=24
.param test_exiting_param_set2=25
.param test_exiting_param_set3=26
.param test_exiting_param_set4=27

.PARAM I1=1.23k  ; Batch instruction
.PARAM I2={freq*(10/5.0})  ; Batch instruction
.PARAM test_add_parameter=34.45  ; Batch instruction
.backanno
***** SpiceEditor Manipulated this subcircuit ****
.subckt OPA2333P_XU1_XDUT IN+ IN- VCC VEE OUT
******************************************************
.model R_NOISELESS RES (TCE=0 T_ABS=-273.15)
******************************************************
I_OS        ESDn MID -7e-11
I_B         30 MID 7e-11
V_GRp       45 MID 48
V_GRn       46 MID -69
V_ISCp      39 MID 4.5975
V_ISCn      40 MID -10
V_ORn       38 VCLP -7.9938
V11         44 37 0
V_ORp       36 VCLP 7.9938
V12         43 35 0
V4          27 OUT 0
VCM_MIN     67 VEE_B -0.1
VCM_MAX     68 VCC_B 0.1
I_Q         VCC VEE 1.7e-05
XV_OS        75 30 VOS_DRIFT_OPA2333P
XU5         ESDp ESDn VCC VEE ESD_0_OPA2333P
XU4         19 ESDp MID PSRR_CMRR_0_OPA2333P
XU3         20 VEE_B MID PSRR_CMRR_1_OPA2333P
XU2         21 VCC_B MID PSRR_CMRR_2_OPA2333P
XU1         23 22 CLAMP VSENSE CLAW_CLAMP CL_CLAMP 24 26 27 MID AOL_ZO_0_OPA2333P
C28         31 MID 1P  
R77         32 31 R_NOISELESS 200 
C27         33 MID 1P  
R76         34 33 R_NOISELESS 100 
R75         MID 35 R_NOISELESS 1 
GVCCS8      35 MID 36 MID  -1
R74         37 MID R_NOISELESS 1 
GVCCS7      37 MID 38 MID  -1
Xi_nn       ESDn MID FEMT_0_OPA2333P
Xi_np       MID 30 FEMT_0_OPA2333P
Xe_n        ESDp 30 VNSE_0_OPA2333P
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0_OPA2333P
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0_OPA2333P
C_DIFF      ESDp ESDn 2e-12  
XCL_AMP     39 40 VIMON MID 41 42 CLAMP_AMP_LO_0_OPA2333P
SOR_SWp     CLAMP 43 CLAMP 43  S_VSWITCH_1
SOR_SWn     44 CLAMP 44 CLAMP  S_VSWITCH_1
XGR_AMP     45 46 47 MID 48 49 CLAMP_AMP_HI_0_OPA2333P
R39         45 MID R_NOISELESS 1T 
R37         46 MID R_NOISELESS 1T 
R42         VSENSE 47 R_NOISELESS 1M 
C19         47 MID 1F  
R38         48 MID R_NOISELESS 1 
R36         MID 49 R_NOISELESS 1 
R40         48 50 R_NOISELESS 1M 
R41         49 51 R_NOISELESS 1M 
C17         50 MID 1F  
C18         MID 51 1F  
XGR_SRC     50 51 CLAMP MID VCCS_LIM_GR_0_OPA2333P
R21         41 MID R_NOISELESS 1 
R20         MID 42 R_NOISELESS 1 
R29         41 52 R_NOISELESS 1M 
R30         42 53 R_NOISELESS 1M 
C9          52 MID 1F  
C8          MID 53 1F  
XCL_SRC     52 53 CL_CLAMP MID VCCS_LIM_4_0_OPA2333P
R22         39 MID R_NOISELESS 1T 
R19         MID 40 R_NOISELESS 1T 
XCLAWp      VIMON MID 54 VCC_B VCCS_LIM_CLAW+_0_OPA2333P
XCLAWn      MID VIMON VEE_B 55 VCCS_LIM_CLAW-_0_OPA2333P
R12         54 VCC_B R_NOISELESS 1K 
R16         54 56 R_NOISELESS 1M 
R13         VEE_B 55 R_NOISELESS 1K 
R17         57 55 R_NOISELESS 1M 
C6          57 MID 1F  
C5          MID 56 1F  
G2          VCC_CLP MID 56 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 57 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 58 59 CLAMP_AMP_LO_0_OPA2333P
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         58 MID R_NOISELESS 1 
R24         MID 59 R_NOISELESS 1 
R27         58 60 R_NOISELESS 1M 
R28         59 61 R_NOISELESS 1M 
C11         60 MID 1F  
C10         MID 61 1F  
XCLAW_SRC   60 61 CLAW_CLAMP MID VCCS_LIM_3_0_OPA2333P
H2          34 MID V11 -1
H3          32 MID V12 1
C12         SW_OL MID 100P  
R32         62 SW_OL R_NOISELESS 100 
R31         62 MID R_NOISELESS 1 
XOL_SENSE   MID 62 33 31 OL_SENSE_0_OPA2333P
S1          24 26 SW_OL MID  S_VSWITCH_3
H1          63 MID V4 1K
S7          VEE OUT VEE OUT  S_VSWITCH_4
S6          OUT VCC OUT VCC  S_VSWITCH_4
R11         MID 64 R_NOISELESS 1T 
R18         64 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 1N  
E5          64 MID OUT MID  1
C13         VIMON MID 1N  
R33         63 VIMON R_NOISELESS 100 
R10         MID 63 R_NOISELESS 1T 
R47         65 VCLP R_NOISELESS 100 
C24         VCLP MID 100P  
E4          65 MID CL_CLAMP MID  1
C4          23 MID 1F  
R9          23 66 R_NOISELESS 1M 
R7          MID 67 R_NOISELESS 1T 
R6          68 MID R_NOISELESS 1T 
R8          MID 66 R_NOISELESS 1 
XVCM_CLAMP  69 MID 66 MID 68 67 VCCS_EXT_LIM_0_OPA2333P
E1          MID 0 70 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          71 VEE_B R_NOISELESS 1M 
C3          71 0 1F  
R60         70 71 R_NOISELESS 1MEG 
C1          70 0 1  
R3          70 0 R_NOISELESS 1T 
R59         72 70 R_NOISELESS 1MEG 
C2          72 0 1F  
R4          VCC_B 72 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       73 69 R_NOISELESS 1K 
G_PSR       69 73 21 20  -1M
R2          22 ESDn R_NOISELESS 1M 
R1          73 74 R_NOISELESS 1M 
R_CMR       75 74 R_NOISELESS 1K 
G_CMR       74 75 19 MID  -1M
C_CMn       ESDn MID 4e-12  
C_CMp       MID ESDp 4e-12  
R53         ESDn MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN- ESDn R_NOISELESS 10M 
R34         IN+ ESDp R_NOISELESS 10M 
.MODEL S_VSWITCH_1 VSWITCH (RON=10e-3 ROFF=1e9 VON=10e-3 VOFF=0)
.MODEL S_VSWITCH_3 VSWITCH (RON=1e-3 ROFF=1e9 VON=900e-3 VOFF=800e-3)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1e12 VON=500e-3 VOFF=450e-3)
.ENDS OPA2333P_XU1_XDUT
***** ENDS SpiceEditor ****
***** SpiceEditor Manipulated this subcircuit ****
.subckt OPA2333P_MC_XU1 IN+ IN- VCC VEE OUT
+params:
+ inputIbias = normal_zero(200p)
+ inputVoff  = normal_zero(10u)
+ inputIdiff = normal_zero(400p)
.PARAM runIO = inputIbias
.PARAM runID = (inputIdiff/2)
V1 IN-    N001  {inputVoff}
I1 N001   VEE   {runIO-runID}
I2 IN+    VEE   {runIO+runID}
XDUT IN+ N001 VCC VEE OUT OPA2333P_XU1_XDUT
.lib OPA2333P.LIB
.ENDS OPA2333P_MC_XU1
***** ENDS SpiceEditor ****
.end
